US06432993B1
(39-2) 5-[4-{6-[4-(Tetrazol-5-yl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}benzyl]thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidine-5-ylmethyl)phenoxyacetylamino]-5-[4-(tetrazol-5-yl)phenoxy]phenyl}-N-methylcarbamate (0.76 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 24 hours. The solvent of the reaction mixture was evaporated. To the residue was added ethyl acetate and insoluble product was isolated by filtration and washed with ethyl acetate to give the title compound (0.44 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidine-5-ylmethyl)phenoxyacetylamino]-5-[4-(tetrazol-5-yl)phenoxy]phenyl}-N-methylcarbamate | 0.76 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)C2=NN=NN2)N(C(OC(C)(C)C)=O)C)C=C1 | C31H31N7O7S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-[4-{6-[4-(Tetrazol-5-yl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy}benzyl]thiazolidine-2,4-dione hydrochloride | 0.44 g | Cl.N1N=NN=C1C1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | InChI=1S/C26H21N7O4S.ClH/c1-33-21-13-19(37-18-8-4-16(5-9-18)24-29-31-32-30-24)10-11-20(21)27-23(33)14-36-17-6-2-15(3-7-17)12-22-25(34)28-26(35)38-22;/h2-11,13,22H,12,14H2,1H3,(H,28,34,35)(H,29,30,31,32);1H
